US07427632B2
4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(2-pyridinyl)-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(2-pyridinyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (730 mg, 2.2 mmol) and 3-chloroindole-6-carboxylic acid (468 mg, 2.4 mmol) afforded, after purification (SiO2: 10 DCM:2 EtOAc:2 Hexane:0 to 1.5 isopropyl amine), 835 mg (64%) of the title compound.

reactant | 4-[2-amino-2-(2-pyridinyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 2.2 mmol, 730 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=NC=CC=C1)N | C18H29N3O3
reactant | 3-chloroindole-6-carboxylic acid | 2.4 mmol, 468 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(2-pyridinyl)-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=NC=CC=C1)NC(=O)C1=CC=C2C(=CNC2=C1)Cl | C27H33ClN4O4
